US06881736B1
(a) Ethyl (S)-4-[4-[2-[6-(methylamino)pyridin-2-yl]ethoxy]phenyl]-3-(pyridin-3-yl)butanoate
Diisopropyl azodicarboxylate (7.8 mL, 39.8 mmole) was added dropwise to a solution of ethyl (S)-4-(4-hydroxyphenyl)-3-(pyridin-3-yl)butanoate (9.455 g, 33.1 mmole), 6-(methylamino)-2-pyridylethanol (6.06 g, 39.8 mmole), and triphenylphosphine (10.44 g, 39.8 mmole) in anhydrous THF (150 mL) at 0° C. The mixture was allowed to warm to RT as the bath warmed. After 18 hr the reaction was concentrated and the residue was flash chromatographed on silica gel (3% MeOH in 1:1 EtOAc/CHCl3) to afford the title compound (9.2 g, 66%) as a viscous yellow oil: 1H NMR (400 MHz, CDCl3) δ 8.43 (dd, J=4.8, 1.6 Hz, 1 H). 8.39 (d, J=1.9 Hz, 1 H), 7.31-7.45 (m, 2 H), 7.13-7.21 (m, 1 H), 6.91 (d, J=8.6 Hz, 2 H), 6.77 (d, 3=8.6 Hz, 2 H), 6.53 (d, J=7.3 Hz, 1 H), 6.24 (d, J=8.2 Hz, 1 H), 4.43-4.58 (m, 1 H), 4.26 (t, J=7.0 Hz, 2 H), 3.92-4.05 (m, 2 H), 3.32-3.45 (m, 1 H), 3.04 (t, J=7.0 Hz, 2 H), 2.89 (d, J=5.3 Hz, 3 H), 2.88 (dd, J=13.7, 7.2 Hz, 1 H), 2.82 (dd, J=13.7, 7.8 Hz, 1 H), 2.70 (dd, J=15.6, 6.3 Hz, 1 H), 2.59 (dd, J=15.6, 9.0 Hz, 1 H), 1.11 (t, J=7.1 Hz, 3 H); MS (ES) m/e 420 (M+H)+.

reactant | Diisopropyl azodicarboxylate | 39.8 mmole, 7.8 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | ethyl (S)-4-(4-hydroxyphenyl)-3-(pyridin-3-yl)butanoate | 33.1 mmole, 9.455 g | OC1=CC=C(C=C1)C[C@@H](CC(=O)OCC)C=1C=NC=CC1 | C17H19NO3
reactant | 6-(methylamino)-2-pyridylethanol | 39.8 mmole, 6.06 g | CNC1=CC=CC(=N1)C(C)O | C8H12N2O
reactant | triphenylphosphine | 39.8 mmole, 10.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | Ethyl (S)-4-[4-[2-[6-(methylamino)pyridin-2-yl]ethoxy]phenyl]-3-(pyridin-3-yl)butanoate | 9.2 g, 66% | CNC1=CC=CC(=N1)CCOC1=CC=C(C=C1)C[C@@H](CC(=O)OCC)C=1C=NC=CC1 | C25H29N3O3
